US05962458
Diethyl azodicarboxylate (197 μl, 1.2 mmol) was added dropwise to a solution of 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline (200 mg, 0.6 mmol), (prepared as described for the starting material in Example 24), 3-thiophenemethanol (107 mg, 0.93 mmol) and triphenylphosphine (328 mg, 1.2 mmol) in methylene chloride (6 ml) cooled at 0° C. The mixture was stirred for 2 hours at ambient temperature and further triphenylphosphine (157 mg, 0.57 mmol), 3-thiophenemethanol (107 mg, 0.93 mmol) and diethyl azodicarboxylate (98.5 μl, 0.59 mmol) were added. The mixture was stirred for 2 hours at ambient temperature and the solvent was removed by evaporation. The residue was dissolved in ethyl acetate and the solution was washed with water and brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/ethyl acetate (4/6). The resulting oil was dissolved in ether and a 5M solution of hydrogen chloride in isopropanol (1 ml) was added. The resulting precipitate was collected by filtration, washed with ether and dried under vacuum to give 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((3-thienyl)methoxy)quinazoline hydrochloride (59 mg, 20%).

reactant | Diethyl azodicarboxylate | 1.2 mmol, 197 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | 4-(4-chloro-2-fluoroanilino)-7-hydroxy-6-methoxyquinazoline | 0.6 mmol, 200 mg | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=C1)F | C15H11ClFN3O2
reactant | 3-thiophenemethanol | 0.93 mmol, 107 mg | S1C=C(C=C1)CO | C5H6OS
reactant | triphenylphosphine | 1.2 mmol, 328 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 0.57 mmol, 157 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 3-thiophenemethanol | 0.93 mmol, 107 mg | S1C=C(C=C1)CO | C5H6OS
reactant | diethyl azodicarboxylate | 0.59 mmol, 98.5 μl | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | methylene chloride | 6 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2-fluoroanilino)-6-methoxy-7-((3-thienyl)methoxy)quinazoline hydrochloride | 59 mg, 20% | Cl.ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2=CSC=C2)C=C1)F | InChI=1S/C20H15ClFN3O2S.ClH/c1-26-18-7-14-17(8-19(18)27-9-12-4-5-28-10-12)23-11-24-20(14)25-16-3-2-13(21)6-15(16)22;/h2-8,10-11H,9H2,1H3,(H,23,24,25);1H
